### PR TITLE
[Merged by Bors] - feat(Data/Finset/Max): max/min_union

### PR DESCRIPTION
**Pull request by tristan-f-r**
Adds `max_union` and `min_union` as a corollary of `sup_union` and `inf_union` respectively.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Max.lean [hunk 1]
```diff
@@ -87,6 +87,10 @@ theorem le_max_of_eq {s : Finset α} {a b : α} (h₁ : a ∈ s) (h₂ : s.max =
 theorem not_mem_of_max_lt {s : Finset α} {a b : α} (h₁ : b < a) (h₂ : s.max = ↑b) : a ∉ s :=
   Finset.not_mem_of_max_lt_coe <| h₂.trans_lt <| WithBot.coe_lt_coe.mpr h₁
 
+theorem max_union {s t : Finset α} : (s ∪ t).max = s.max ⊔ t.max := by
+  unfold Finset.max
+  rw [Finset.sup_union]
```
Comment (Command-Master) [inline Mathlib/Data/Finset/Max.lean:92]:
```suggestion
theorem max_union {s t : Finset α} : (s ∪ t).max = s.max ⊔ t.max := sup_union
```

File: Mathlib/Data/Finset/Max.lean [hunk 2]
```diff
@@ -152,6 +156,10 @@ theorem min_le_of_eq {s : Finset α} {a b : α} (h₁ : b ∈ s) (h₂ : s.min =
 theorem not_mem_of_lt_min {s : Finset α} {a b : α} (h₁ : a < b) (h₂ : s.min = ↑b) : a ∉ s :=
   Finset.not_mem_of_coe_lt_min <| (WithTop.coe_lt_coe.mpr h₁).trans_eq h₂.symm
 
+theorem min_union {s t : Finset α} : (s ∪ t).min = s.min ⊓ t.min := by
+  unfold Finset.min
+  rw [Finset.inf_union]
```
Comment (Command-Master) [inline Mathlib/Data/Finset/Max.lean:161]:
```suggestion
theorem min_union {s t : Finset α} : (s ∪ t).min = s.min ⊓ t.min := inf_union
```

**Review by Command-Master — APPROVED** [review]

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge
